US04012413
In the manner given in Example 20, 3-phthalimidobutyric acid and carbonyldiimidazol are reacted in tetrahydrofuran. To this mixture is added 7-chloro-2-hydrazino-5-(o-fluorophenyl)-3H-1,4-benzodiazepine to give 3-phthalimidobutyric acid 2-[7-chloro-5-(o-fluorophenyl)-3H-1,4-benzodiazepin-2yl]hydrazide which is warmed with acetic acid to give N-[2-[8-chloro-6-(o-fluorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepin-1-yl]propyl]phthalimide

reactant | 3-phthalimidobutyric acid | C1(C=2C(C(N1C(CC(=O)O)C)=O)=CC=CC2)=O | C12H11NO4
reactant | carbonyldiimidazol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 7-chloro-2-hydrazino-5-(o-fluorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)F)C1 | C15H12ClFN4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-phthalimidobutyric acid 2-[7-chloro-5-(o-fluorophenyl)-3H-1,4-benzodiazepin-2yl]hydrazide | ClC=1C=CC2=C(C(=NCC(=N2)NNC(CC(C)N2C(C=3C(C2=O)=CC=CC3)=O)=O)C3=C(C=CC=C3)F)C1 | C27H21ClFN5O3
